US08703768B2
Step 1: 2-Amino-6-methoxy-N,N-dimethyl-benzamide
The product was obtained starting from 2-amino-6-methoxybenzoic acid (100 mg, 0.6 mmol) and dimethylamine (2M in THF, 420 μl, 0.84 mmol) according to the method described in example 64, step 6 after extraction with ethyl acetate and purification by silica gel chromatography using an amine phase and a heptane/ethyl acetate gradient as colorless oil (26 mg, 22%).

reactant | 2-amino-6-methoxybenzoic acid | 0.6 mmol, 100 mg | NC1=C(C(=O)O)C(=CC=C1)OC | C8H9NO3
reactant | dimethylamine | 0.84 mmol, 2M, 420 μl | CNC | C2H7N
product | 2-Amino-6-methoxy-N,N-dimethyl-benzamide | NC1=C(C(=O)N(C)C)C(=CC=C1)OC | C10H14N2O2
